US07230115B1
Synthesis of 2-(2-nitro-1H-imidazol-1-yl)-N-(2,3,3-trifluoroallyl)-acetamide
N-methylmorpholine (1.01 g, 10 mmol) was added to 2-(2-nitro-1H-imidazol-1-yl)acetic acid (1.71 g, 10 mmol) in 150 mL of dry THF under nitrogen at 0° C. and stirred for 10 minutes. Isobutyl chloroformate (1.43 mL, 11 mmol) was added. After 30 minutes, 1,1,2-Trifluoro allyl amine hydrochloride (1.62 g, 11 mmol) and N-methylmorpholine (1,21 g, 12 mmol) was added to the solution and the mixture stirred at room temperature overnight. The solution was then filtered and the organic solvent evaporated to give a pale yellow solid.

reactant | N-methylmorpholine | 10 mmol, 1.01 g | CN1CCOCC1 | C5H11NO
reactant | 2-(2-nitro-1H-imidazol-1-yl)acetic acid | 10 mmol, 1.71 g | [N+](=O)([O-])C=1N(C=CN1)CC(=O)O | C5H5N3O4
reactant | Isobutyl chloroformate | 11 mmol, 1.43 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1,1,2-Trifluoro allyl amine hydrochloride | 11 mmol, 1.62 g | Cl.FC(C(=C)F)(F)N
reactant | N-methylmorpholine | 12 mmol, 1,21 g | CN1CCOCC1 | C5H11NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(2-nitro-1H-imidazol-1-yl)-N-(2,3,3-trifluoroallyl)-acetamide | [N+](=O)([O-])C=1N(C=CN1)CC(=O)NCC(=C(F)F)F | C8H7F3N4O3
